US08304438B2
(a) 3-(6-Bromo-pyridin-3-yl)-acrylic Acid
750 mg (3.1 mmol) of 3-(6-bromo-pyridin-3-yl)-acrylic acid methyl ester was dissolved in 30 ml of dioxane and 4.65 ml of a 2 N aqueous sodium hydroxide solution was added. The reaction mixture was stirred at room temperature for 2 h. The reaction solution was poured into water and acidified with concentrated hydrochloric acid, whereupon the product precipitated. The product was isolated by filtration and dried under reduced pressure. Yield: 673 mg.

reactant | 3-(6-bromo-pyridin-3-yl)-acrylic acid methyl ester | 3.1 mmol, 750 mg | COC(C=CC=1C=NC(=CC1)Br)=O | C9H8BrNO2
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 3-(6-Bromo-pyridin-3-yl)-acrylic Acid | BrC1=CC=C(C=N1)C=CC(=O)O | C8H6BrNO2
